* absdelay AC example (5-stage delay line, total delay = 10 ns)
* Magnitude is flat (0 dB, lossless delay); phase is linear: -360*f*10ns deg.
.model dly absdelay_dly (delay=2n)
Ndly1 in    n1   dly
Ndly2 n1    n2   dly
Ndly3 n2    n3   dly
Ndly4 n3    n4   dly
Ndly5 n4    out  dly
Vin in 0 AC 1
.ac dec 50 1MEG 500MEG
.control
  pre_osdi /Users/meisam/software-builds/version2/absdelay_examples/absdelay.osdi
  run
  wrdata RESULTFILE vdb(out) vp(out)
.endc
.end
